Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Loss of consciousness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of recurrent mastoiditis most recently operated 
on at ___ on ___ presenting with a 
syncopal event. The patient notes that after his surgery he was 
recovering well, and that he had completed a course of 
levofloxacin and otic drops and he was seen by his surgeon 
several days ago for a post-operative visit where he was told he 
was doing well. He had mild residual tenderness over the left 
mastoid bone which has been slowly improving.  
 On the day of presentation, the patient was standing and 
watching TV while eating an ___ muffin with peanut butter 
(one of his typical breakfast foods) for breakfast around 11am. 
He was otherwise in his usual state of health and had been 
eating and drinking well without ongoing volume loss. He noted 
that flushing sensation and nausea that were associated with 
increasing shortness of breath. His symptoms started suddenly 
and he described a sensation of air hunger with tachypnea. His 
symptoms started suddenly and was becoming progressively worse 
of <5min. He was able to ease himself down to the ground where 
he lost consciousness. He denied any associated wheezing, lip, 
throat, or tongue swelling. This episode was not witnessed and 
he notes that he woke up what felt like several minutes later. 
He called his mother who instructed him to call ___.  
 Upon arrival, the paramedics noted that he appeared flushed and 
were concerned for possible allergic reaction. An IV was placed 
and he was given 50mg of IV Benadryl. He was then taken to 
___ where he was evaluated in their emergency 
room. His initial BPs were reportedly in the ___. He was 
described as a combination of flushed and mottled without hives. 
His labs were notable for a WBC of 22, Hgb 19.5, Hct 57, Plt 417 
with lactate of 3.1, Trop of 0.05. Out of concern for sepsis he 
was given CTX 2g and Vanc 1g. A urine tox was negative. He 
underwent a CT head which did not show acute findings. His 
D-dimer was positive and he underwent CTA chest which showed no 
PE, with evidence of mild atelectasis and borderline 
cardiomegaly. Initially, plans were to transfer him to 
___, but his surgeon declined transfer. His 
mother wanted him to be evaluated in ___, specifically 
concerned about his cardiomegaly.  
 In the ED, initial vitals were: 98.4 92 152/84 20 96% RA  
 - Labs were significant for leukocytosis to WBC 22, lactate 
2.7, Trop 0.11.  
 - The patient was given IV Vanc  
 - EKG showed NSR without changes concerning for ischemia  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
4x Operations for Mastoiditis/Cholesteatoma  
Asthma  

 
Social History:
___
Family History:
 Mother: HTN, HL, Asthma  
 Father: HTN, HL  
 Sister: Healthy  
 ___ grandfather: AAA  
 ___ aunt: renal aneurysm  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
Vitals:89 154/65 98 18 98% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
facial erythema without swelling. Mild tenderness over left 
mastoid improved from prior. Incision well-healed without 
erythema or drainage.  
 Neck: Supple, JVP not elevated, no bruits  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, obese, +striae, non-tender, non-distended, bowel 
sounds present, no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, tandem gait performed without 
difficulty  

DISCHARGE PHYSICAL EXAM 
Vitals:  98| 154/65| 98| 18| 98% on RA
General: NAD, AOX3 
HEENT:  EOMI, PERRLA, no perioral swelling
Lymph:  Right submandibular fullness, no anterior/posterior 
cervical chain lymphadenopathy 
CV:  RRR, normal S1/S2, no murmurs rubs or gallops
Lungs:  CTAB, no wheezes or crackles
Abdomen:  BS+, soft, non-tender to palpation, no rebound or 
guarding
Ext:  Non-edematous, WWP 
Neuro:  CN ___ intact, strength ___ in bilateral upper and 
lower extremities. Sensation intact to light touch in b/l upper 
and lower extremities. 
Skin:  No rashes or lesions 
 
Pertinent Results:
ADMISSION LABS: 
___ 11:55PM BLOOD WBC-22.6* RBC-5.44 Hgb-16.6 Hct-49.2 
MCV-90 MCH-30.5 MCHC-33.7 RDW-13.7 RDWSD-45.0 Plt ___
___ 11:55PM BLOOD Neuts-80.4* Lymphs-12.4* Monos-6.0 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-18.14* AbsLymp-2.79 
AbsMono-1.36* AbsEos-0.07 AbsBaso-0.09*
___ 11:55PM BLOOD Plt ___
___ 11:55PM BLOOD Glucose-102* UreaN-13 Creat-0.8 Na-138 
K-4.6 Cl-104 HCO3-22 AnGap-17
___ 11:55PM BLOOD ALT-19 AST-27 LD(LDH)-231 CK(CPK)-93 
AlkPhos-61 TotBili-0.4
___ 11:55PM BLOOD CK-MB-7 cTropnT-0.11*

INTERVAL LABS: 
___ 07:26AM BLOOD Lactate-1.2
___ 11:55PM BLOOD CK-MB-7 cTropnT-0.11*
___ 07:13AM BLOOD CK-MB-4 cTropnT-0.08*

MICROBIOLOGY:
Blood culture, NGTD

IMAGING: none at ___, uploaded OSH records

DISCHARGE LABS: 
___ 07:13AM BLOOD WBC-15.7* RBC-4.95 Hgb-14.9 Hct-44.4 
MCV-90 MCH-30.1 MCHC-33.6 RDW-13.8 RDWSD-45.1 Plt ___
___ 07:13AM BLOOD Glucose-84 UreaN-11 Creat-0.8 Na-140 
K-4.3 Cl-106 HCO3-24 AnGap-___RIEF HOSPITAL COURSE: 
___ presenting with syncope found to have hypotension, elevated 
lactate, leukocytosis, flushing, and elevated troponin. 

# SYNCOPE: The combination of flushing, dyspnea, hypotension, 
and syncope are potentially consistent with MAST cell 
activation. However, no significant allergic exposure was 
identified and patient denied any changes in routine, foods, 
medication, or recent travel. Patient's symptoms resolved by 
second day of admission. Alternatively, vasovagal could be 
considered although this would be an atypical presentation. 
There are several abnormalities which are not explained by 
allergic exposure such as polycythemia and tropinemia, both of 
which were downtrending on day of discharge with IVF. He denied 
chest pain throughout the episode, EKG was unremarkable, no 
evidence of ACS, and the onset of constellation of his symptoms 
is unlikely to represent progressive arrhythmia. However, given 
new onset syncope would consider echocardiogram as outpatient. 
Hemoglobin/Hct normalized with IVF. 

# POLYCYTHEMIA: Improved with IVF. Likely ___ intravascular 
volume depletion on admission in the setting of anaphylaxis. 

# TROPINEMIA: Downtrending troponin, normal CK-MB. Patient 
presented with borderline elevated troponin likely in setting of 
allergic reaction as above. No chest pain, unremarkable EKG. 

TRANSITIONAL ISSUES:
- Please follow up on pending tryptase
- Please consider echo as an outpatient given new onset episode 
of syncope and mild cardiomegaly seen on CTA. 
- Patient discharged with EpiPen and Benadryl in the event of 
repeat episode. Can consider outpatient allergy testing. 
- Code: Full
- Contact: Mother ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Multivitamins 1 TAB PO DAILY 
2. EpiPen (EPINEPHrine) 0.3 mg/0.3 mL (1:1,000) injection PRN 
anaphylaxis 
RX *epinephrine 0.3 mg/0.3 mL  (1:1,000) 1 injection IM PRN Disp 
#*1 Each Refills:*0
3. DiphenhydrAMINE 25 mg PO Q6H:PRN allergic reaction 
RX *diphenhydramine HCl [Allergy (diphenhydramine)] 25 mg 1 
tablet by mouth q6h PRN Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
1. Syncope
2. Leukocytosis
Chronic
1. Mastoiditis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It a pleasure taking care of you at ___. You were admitted for 
loss of consciousness. A thorough work up was completed which 
suggested that you may have had an allergic reaction. 
Unfortunately, we were unable to determine the agent that caused 
your reaction. 

You will be discharged with an EpiPen in the event that you have 
a repeat reaction. Please follow up with your outpatient 
provider.

Thank you for allowing us to care for you,

Your ___ Care Team
 
Followup Instructions:
___